US07407971B2
4-(4-Fluoro-piperidin-1-yl)benzoic acid ethyl ester
To a solution of 4-(4-hydroxy-piperidin-1-yl)benzoic acid ethyl ester (1.25 g, 5 mmoles) in dry dichloromethane (30 ml) at room temperate under an inert atmosphere, it was slowly added DAST (0.97 g, 6 mmoles) in dichloromethane (5 ml). The reaction mixture was stirred at room temperature for 1 hour and then quenched with aqueous NaHCO3. The organic layer was washed with brine, dried and evaporated. The residue was purified by flash chromatography on silica gel using hexane/EtOAc (70/30) as eluent to give the title compound as a white solid (0.7 g, 56%).

reactant | 4-(4-hydroxy-piperidin-1-yl)benzoic acid ethyl ester | 5 mmoles, 1.25 g | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)O)=O | C14H19NO3
reactant | DAST | 6 mmoles, 0.97 g | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(4-Fluoro-piperidin-1-yl)benzoic acid ethyl ester | 0.7 g, 56% | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)F)=O | C14H18FNO2
